US07297812B2
Glycidol and acrylic acid which comprises 6.4% by weight of triethylamine hydrochloride and 0.6% by weight of hydroquinone were metered together into a loop reactor heated to 125° C. The metering rate for glycidol was 40 g/h; that for the acrylic acid/hydroquinone/catalyst solution was 41 g/h. The residence time was approx. 15 min. The effluent of the loop reactor within one hour was collected, cooled and admixed with 69 g of trimethyl orthoacetate. The mixture was stirred at 25° C. for 1 hour. A crude product of the 4-acryloyloxymethyl-2-methoxy-2-methyl-1,3-dioxolane was obtained in a yield of 63% by GC analysis.

reactant | Glycidol | C1C(O1)CO | C3H6O2
reactant | acrylic acid | C(C=C)(=O)O | C3H4O2
reactant | triethylamine hydrochloride | Cl.C(C)N(CC)CC
reactant | hydroquinone | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | acrylic acid hydroquinone | C(C=C)(=O)O.C1(O)=CC=C(O)C=C1
product | 4-acryloyloxymethyl-2-methoxy-2-methyl-1,3-dioxolane | yield of 63% | C(C=C)(=O)OCC1OC(OC1)(C)OC | C9H14O5
